US08372807B2
A mixture of compound ethyl 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetate (1 g, 2.6 mmol), aqueous sodium hydroxide solution (10%, 12 mL) and methanol (20 mL) was stirred at reflux for 2 hours. The reaction mixture was then cooled to room temperature and concentrated to a reduced volume. Water was added, the reaction neutralized with aqueous HCl solution (1N) and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure to give 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetic acid as a solid.

reactant | ethyl 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetate | 2.6 mmol, 1 g | C1(=CC=CC2=CC=CC=C12)N1N=NC(=C1SCC(=O)OCC)[Si](C)(C)C | C19H23N3O2SSi
reactant | sodium hydroxide | 12 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetic acid | C1(=CC=CC2=CC=CC=C12)N1N=NC(=C1SCC(=O)O)[Si](C)(C)C | C17H19N3O2SSi
